Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Loss of consciousness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ hx BPH, restless leg, h/o UTI presents with LOC c/f new 
seizure to the ED.  
 History taken from wife and patient. They report he had dental 
procedures earlier today where he received two shots of 
Novocaine (these were fillings that were done). He went to an 
___ buffet later in the day. Before eating, while viewing the 
food, he reported feeling dizzy and nauseous, and had tunneling 
of his vision. This had never happened to him before, and he was 
feeling fine beforehand (and he had not consumed anything from 
the restaurant). According to his wife, he appeared red, with 
foam on his lips, his eyes half open, and then he slumped to the 
ground. They do not remember if he struck his head. Unclear how 
long he was in this position, but they do not recount him losing 
bowel or bladder continence, or that he shook or bit his tongue. 
His ROS is essentially negative: he denies (prior or with this 
event) HA, vision change, congestion, cough, cp/pressure, sob, 
orthopnea, PND, palpitations, abdominal pain, diarrhea. He does 
have urinary frequency due to BPH that was slightly increased 
today. He has not had sick contacts or recent travel. No new 
medications, he takes OTCs as listed below.  
 In the ED, initial vitals were: 96.7 82 171/89 16 98% RA  
 - Labs were significant for: being essentially normal. BUN/Cr 
___, PLT 143, otherwise unremarkable Chem10, LFTs, UA, CBC.  
 - CT Head negative. CXR with hyperinflation w/o acute process.  

 - EKG with NSR, ___, rSr', no delta waves or ischemic change.  
 - Neurology was consulted: they found him to be encephalopathic 
with unsteady gait, but with a non-focal neurologic exam. The 
encephalopathy may have been due to the Ativan he received prior 
to exam; however, they recommended admission to Medicine for 
evaluation of encephalopathy versus syncope (given the atypical 
history above), then if these are not the case, would initiate 
new seizure w/u with MRI and EEG. Neurology to follow as 
consultants.  
 - The patient was given: Zofran 4mg IV, 1L NS, and 0.5 IV 
Ativan.  
 Vitals prior to transfer were: sleeping 104 106/68 18 97% RA.  
 Upon arrival to the floor, patient is awoken from sleep, but is 
alert, oriented, not confused and answers all questions in full 
without apparent confusion. He appears comfortable.  
 REVIEW OF SYSTEMS: See HPI.  

 
Past Medical History:
BPH  
Restless leg syndrome  
History of UTIs (last was a couple months ago)  
 
Social History:
___
Family History:
 - Father: ___ disease  
 - Mother: stroke, atrial fibrillation 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 98.5 119/74 107 20 96%RA  
 General: Alert, oriented, no acute distress  
 HEENT: NCAT, EOMI, PERRLA, anicteric sclera, clear OP, no oral 
trauma, MMM  
 Neck: Supple, no JVD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 Ext: Warm, well perfused, no clubbing, cyanosis or edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
gait deferred.  

NEUROLOGIC EXAM ON ADMISSION:
 - Mental Status: Awake, but intermittently falls asleep during 
the exam. Able to relate history without difficulty. Language is 
fluent with normal prosody. There were no paraphasic errors. 
Patient was able to name both high and low frequency objects on 
the stroke card, except hammock. Able to read without 
difficulty. Speech was not dysarthric. Able to follow both 
midline and appendicular commands. Attentive, able to name ___ 
backward without difficulty. There was no evidence of neglect.  
 - Cranial Nerves:  
 I: Olfaction not tested.  
 II: PERRL 4 to 2mm bilaterally. VFF to confrontation with 
finger counting.  
 III, IV, VI: EOMI without nystagmus.  
 V: Facial sensation intact to light touch in all distributions  

 VII: No facial droop with symmetric upper and lower facial 
musculature bilaterally  
 VIII: Hearing intact to finger-snap bilaterally.  
 IX, X: Palate elevates symmetrically.  
 XI: full strength in trapezii bilaterally.  
 XII: Tongue protrudes in midline  
 
 -Motor: Normal bulk throughout. No pronator drift bilaterally.  

 ___ strength bilaterally in: Delt Bic Tri WrE FFl FE IO IP Quad 
Ham TA ___  
 
 -DTRs:  
 Bi Tri ___ Pat Ach  
 L ___ 1 1  
 R ___ 1 1  
 - Toes were downgoing on right, equivocal on left.  
 -Sensory: No deficits to light touch, pinprick, cold sensation. 
Decreased vibration sense in the feet, worse (absent) at right 
toe.  
 -Coordination: No dysmetria on FNF or HKS bilaterally.  
 -Gait: Good initiation. Narrow-based, normal stride. Unsteady, 
especially with turns, and stumbles. Romberg absent.  

DISCHARGE EXAM
Vitals:  98.4| 120/73| 66| 18| 96% on RA
General: Well-appearing, alert and oriented
HEENT: NCAT, EOMI, PERRLA, anicteric sclera, MMM 
CV: RRR, normal S1/S2, no m/r/g
Lungs: CTAB, no wheezes, crackles or rhonchi
Abdomen: soft, non-tender, non-distended
Ext: WWP, pulses 2+, non-edematous b/lLE
Neuro: CN ___ intact, moves all extremities. 
 
Pertinent Results:
ADMISSION LABS:
___ 07:55PM BLOOD WBC-7.0 RBC-3.94* Hgb-13.7 Hct-40.8 
MCV-104* MCH-34.8* MCHC-33.6 RDW-11.9 RDWSD-45.2 Plt ___
___ 07:55PM BLOOD Neuts-70.8 ___ Monos-7.4 Eos-1.3 
Baso-0.9 Im ___ AbsNeut-4.98 AbsLymp-1.36 AbsMono-0.52 
AbsEos-0.09 AbsBaso-0.06
___ 07:55PM BLOOD ___ PTT-20.2* ___
___ 07:55PM BLOOD Glucose-133* UreaN-22* Creat-1.3* Na-140 
K-4.0 Cl-102 HCO3-25 AnGap-17
___ 07:55PM BLOOD Lipase-27
___ 07:55PM BLOOD cTropnT-<0.01
___ 01:40AM BLOOD cTropnT-<0.01
___ 07:55PM BLOOD Albumin-4.6 Calcium-9.7 Phos-3.1 Mg-2.1

MICROBIOLOGY: 
Urine culture: negative
Blood culture: NGTD

IMAGING: 
MRI Brain ___
1. Questionable high signal seen only on the FLAIR sequence and 
possibly on diffusion weighted imaging in the bilateral 
hippocampi which may be 
artifactual in nature.  However, if the patient is clinically 
symptomatic, 
this could represent possible infectious etiology rather than 
simply artifact. Repeat MRI or possibly correlation with lumbar 
puncture may be considered as clinically indicated.  Otherwise, 
no acute intracranial abnormality. 
2. Atrophy and minimal white matter signal abnormality, likely 
secondary to chronic microvascular ischemic changes. 
  
RECOMMENDATION(S):  Questionable high signal seen only on the 
FLAIR sequence and possibly on diffusion weighted imaging in the 
bilateral hippocampi by which may be entirely artifactual in 
nature.  However if the patient is symptomatic, correlation with 
possible infectious etiology, such as herpes, is recommended. 

CT A/P ___
1. No acute intra-abdominal process to explain the patient's 
symptoms. 
2. Marked prostatomegaly. 

ECHO ___
The left atrium and right atrium are normal in cavity size. No 
atrial septal defect is seen by 2D or color Doppler. The 
estimated right atrial pressure is ___ mmHg. Left ventricular 
wall thickness, cavity size and regional/global systolic 
function are normal (LVEF >55%). There is no left ventricular 
outflow obstruction at rest or with Valsalva. Right ventricular 
chamber size and free wall motion are normal. The aortic root is 
mildly dilated at the sinus level. The ascending aorta is mildly 
dilated. The aortic arch is mildly dilated. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. The mitral valve leaflets are mildly thickened. There 
is no mitral valve prolapse. Mild (1+) mitral regurgitation is 
seen. There is an echodensity located adjacent to the left 
atrium in apical views (Clips 48-49), which may represent a 
hiatal hernia (further imaging may be considered if clinically 
indicated). The tricuspid valve leaflets are mildly thickened. 
The estimated pulmonary artery systolic pressure is normal. 
There is no pericardial effusion. 

IMPRESSION: Normal biventricular cavity sizes with preserved 
global and regional biventricular systolic function. No LVOT 
obstruction identified. Mildly dilated thoracic aorta. Mild 
mitral regurgitation.  
  
CXR ___
Hyperinflation without superimposed acute cardiopulmonary 
process.

CT Head ___
No acute intracranial abnormality.

DISCHARGE LABS 
___ 10:07AM BLOOD WBC-4.4 RBC-3.46* Hgb-12.0* Hct-35.9* 
MCV-104* MCH-34.7* MCHC-33.4 RDW-12.1 RDWSD-46.3 Plt ___
___ 10:07AM BLOOD Plt ___
___ 10:07AM BLOOD Glucose-187* UreaN-21* Creat-1.2 Na-140 
K-4.0 Cl-105 HCO3-27 AnGap-___RIEF HOSPITAL COURSE: 
___ year old otherwise healthy male with history of UTIs 
presenting with episode of loss of consciousness concerning for 
vasovagal vs orthostatic hypotension.  

# SYNCOPE: Patient with episode of loss of consciousness while 
standing with prodrome of lightheadedness and weakness prior to 
loss of consciousness. Few seconds of post-episode confusion 
before return to baseline mentation. Neuro exam remained 
non-focal throughout admission.  History suggestive of 
orthostatic vs. vaso-vagal. CT head in ED negative for acute 
intracranial process. Cardiac causes were ruled out with normal 
EKG, echo, and negative troponins x2. Pt remained on telemetry 
throughout admission without significant events. Orthostatic 
vitals were negative.  Head CT and head MRI showed no concern 
for acute intracranial process. No signs/symptoms of infection. 
Episode likely secondary to vasovagal or orthostatic 
hypotension. 

# ___: Patient had a creatinine of 1.3 on admission to 1.2 on 
discharge. Patient's baseline is unknown. Likely due to 
hypovolemia. 

TRANSITIONAL ISSUES:
- MRI head with 'questionable high signal seen only on the FLAIR 
sequence and possibly on diffusion weighted imaging in the 
bilateral hippocampi which may be artifactual in nature. 
However, if the patient is clinically symptomatic, this could 
represent possible infectious etiology rather than simply 
artifact. Repeat MRI or possibly correlation with lumbar 
puncture may be considered as clinically indicated. Otherwise, 
no acute intracranial abnormality.' Patient without symptoms to 
suggest infectious etiology so LP not pursued. Can consider 
repeat MRI if change in clinical picture.

#CODE: Full
#Contact: Wife (___): ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 
2. Vitamin B Complex Dose is Unknown  PO DAILY 
3. Magnesium Oxide Dose is Unknown  PO DAILY 
4. Zinc Sulfate Dose is Unknown  PO DAILY 
5. Calcium Carbonate Dose is Unknown  PO DAILY 
6. saw ___ Dose is Unknown mg oral DAILY 

 
Discharge Medications:
1. Calcium Carbonate 1000 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. saw ___ Dose is Unknown  ORAL DAILY 
4. Vitamin B Complex 1 CAP PO DAILY 
5. Zinc Sulfate 220 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
1. Syncope
2. ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___. You were admitted 
after losing consciousness. A thorough work up was completed, 
which, fortunately was largely negative. We believe your episode 
of syncope was due to either a vasovagal response or low blood 
pressures. Please continue to increase your fluid intake. 

If you feel these symptoms start again including 
light-headedness, sweating, or feeling flushed, please lower 
yourself to a chair or the floor to prevent from injuring 
yourself.

Please follow up with your primary care provider. 

Thank you for allowing us to care for you,

Your ___ Care Team
 
Followup Instructions:
___